US07297704B2
Step 2: (6aR,10aS)-2-fluoro-9-methoxy-6a-nitro-6a,7,10,10a-tetrahydro-6H-benzo[c]chromen-6-one
6-fluoro-3-nitro-2H-chromen-2-one (8.50 g, 40.66 mmol) and 2,2-dimethoxy-1-butene (10.2 g, 120 mmol) were stirred together in dichloroethane (100 mL) at reflux under a N2 atmosphere for 1 h. TLC (25% EtOAc in hexanes) indicated reaction was complete, so reaction mixture was cooled to room temperature, and concentrated under reduced pressure. The resulting brown solid was purified by flash chromatography on silica gel to afford the title compound as an off-white solid (7.50 g, 63%); MS (APPI) m/z=294 [M+H]+.

reactant | 6-fluoro-3-nitro-2H-chromen-2-one | 40.66 mmol, 8.50 g | FC=1C=C2C=C(C(OC2=CC1)=O)[N+](=O)[O-] | C9H4FNO4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | (6aR,10aS)-2-fluoro-9-methoxy-6a-nitro-6a,7,10,10a-tetrahydro-6H-benzo[c]chromen-6-one | 7.50 g, 63% | FC=1C=C2[C@H]3[C@@](C(OC2=CC1)=O)(CC=C(C3)OC)[N+](=O)[O-] | C14H12FNO5
